US08541455B2
34.3. N-cyclopentyl-N-[(2,2-dimethyl-1,3-dioxan-5-yl)methyl]-6-hydrazinylpyridine-3-sulfonamide
The compound is prepared according to processes 14.1 and 5.2, starting with N-[(2,2-dimethyl-1,3-dioxan-5-yl)methyl]cyclopentanamine, 6-chloropyridine-3-sulfonyl chloride and hydrazine hydrate.

reactant | N-[(2,2-dimethyl-1,3-dioxan-5-yl)methyl]cyclopentanamine | CC1(OCC(CO1)CNC1CCCC1)C | C12H23NO2
reactant | 6-chloropyridine-3-sulfonyl chloride | ClC1=CC=C(C=N1)S(=O)(=O)Cl | C5H3Cl2NO2S
reactant | hydrazine hydrate | O.NN
product | N-cyclopentyl-N-[(2,2-dimethyl-1,3-dioxan-5-yl)methyl]-6-hydrazinylpyridine-3-sulfonamide | C1(CCCC1)N(S(=O)(=O)C=1C=NC(=CC1)NN)CC1COC(OC1)(C)C | C17H28N4O4S
